### ISSUE TITLE
`iapply` fails instead of leaving an unsolved typeclass as a side goal

### ISSUE THREAD

**Issue by lzy0505** [larsk21/iris-lean#612]
The `iapply` in the following example should succeed, leaving `SideCondition` as a new goal.

```
import Iris.ProofMode

namespace Iris
open BI

class SideCondition : Prop where
  holds : True

theorem needsSideCondition [BI PROP] [SideCondition] (P : PROP) : ⊢ P -∗ P :=
  wand_rfl

example [BI PROP] (P : PROP) : ⊢ P -∗ P := by
  iapply needsSideCondition -- error: failed to synthesize instance of type class SideCondition

```

**Comment by alvinylt** [comment]
Does this work if the theorem has `SideCondition` as a regular premise rather than as a type class premise?

```lean4
class SideCondition : Prop where
  holds : True

theorem needsSideCondition [BI PROP] (_ : SideCondition) (P : PROP) : ⊢ P -∗ P :=
  wand_rfl

example [BI PROP] (P : PROP) : ⊢ P -∗ P := by
  iapply needsSideCondition
  constructor
  trivial
```

With `[SideCondition]`, the regular `apply` tactic would also fail unless an instance of the type class already exists:

```lean4
class SideCondition : Prop where
  holds : True

theorem needsSideCondition [SideCondition] (P : Prop) (h : P) : P := h

example [BI PROP] (h : P) : P := by
  apply needsSideCondition -- failed to synthesize SideCondition
```

**Comment by lzy0505** [comment]
Rocq's `iApply` works even with `[SideCondition]`. Do you think it is reasonable to just align with lean's `apply`?

**Comment by alvinylt** [comment]
To my understanding type class premises in Rocq are expressed as implicit parameters, not exactly a distinction between `[...]` and `(...)` as in Lean. I don't have a preference (would like to hear others' opinions), though a caveat is that a patch might require intercepting Lean's type class synthesiser in [`iHaveCore`](https://github.com/leanprover-community/iris-lean/blob/69dee49/Iris/Iris/ProofMode/Tactics/HaveCore.lean#L60). Aligning with Lean's `apply` sounds reasonable.
